US05665747
n-Butyllithium (2.5M solution in hexanes, 12.8 ml) was added dropwise to a stirred solution of 4-methyl-2-trimethylsilylthiazole (5 g) in anhydrous tetrahydrofuran/diethyl ether/pentane (4:4:1, 75 ml) at -100° C. under an atmosphere of dry nitrogen. After 90 minutes, 4-methyl-5-thiazolecarbaldehyde (J. Amer. Chem. Soc., 1982, 104, 4934-4943) (4 g) was added. After a further 3 hours at -100° C., water was added and the mixture was warmed to room temperature. Saturated aqueous ammonium chloride solution was added and the organic phase was separated, dried and evaporated. The residue was crystallised from ethyl acetate to give bis(4-methyl-5-thiazolyl)methanol. This material in dichloromethane was oxidised using manganese dioxide to give the title compound.

reactant | n-Butyllithium | 2.5M, 12.8 ml | C(CCC)[Li]
reactant | 4-methyl-2-trimethylsilylthiazole | 5 g | CC=1N=C(SC1)[Si](C)(C)C | C7H13NSSi
reactant | 4-methyl-5-thiazolecarbaldehyde | 4 g | CC=1N=CSC1C=O | C5H5NOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran diethyl ether pentane | 75 ml | O1CCCC1.C(C)OCC.CCCCC
solvent | water | O | H2O
product | bis(4-methyl-5-thiazolyl)methanol | CC=1N=CSC1C(O)C1=C(N=CS1)C | C9H10N2OS2
